US04902698
4-[5-(3-Chlorobenzenesulphonamido)pyrid-2-yl]butanoic acid
A solution of 3-chlorobenzenesulphonyl chloride (1.17 g), dissolved in 5 ml pyridine, was added dropwise to a solution of 4-(5-aminopyrid-2-yl)butanoic acid (1 g) in pyridine (10 ml). The resulting solution was allowed to stand at room temperature overnight when the solvent was removed under reduced pressure. The residue was taken up in dilute sodium hydroxide solution (40 ml) and extracted with chloroform (4×50 ml) the chloroform extracts were discarded. The aqueous layer was adjusted to pH 4 with hydrochloric acid, extracted with chloroform (3×100 ml) and then ethyl acetate (2×100 ml). Chloroform and ethyl acetate extracts were dried over magnesium sulphate, solvents removed and residue recrystallised from acetonitrile/water to give the title compound (1.29 g) as a white solid. m.p. 141°-142° C.

reactant | 3-chlorobenzenesulphonyl chloride | 1.17 g | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 4-(5-aminopyrid-2-yl)butanoic acid | 1 g | NC=1C=CC(=NC1)CCCC(=O)O | C9H12N2O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-[5-(3-Chlorobenzenesulphonamido)pyrid-2-yl]butanoic acid | 1.29 g | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C=CC(=NC1)CCCC(=O)O | C15H15ClN2O4S
